US08728515B2
2,2-dimethyl-propionic acid 10-bromodecyl ester was prepared in 85% yield by treatment of 10-bromodecane-1-ol with trimethylacetyl chloride in the presence of pyridine and 4-dimethylaminopyridine at room temperature in dithlcromethane. After 18 hrs, the reaction was quenched by the addition of dilute hydrochloric acid worked up and filtered through silica to provide 2,2-dimethyl-propionic acid 10-bromodecyl ester.

reactant | 10-bromodecane-1-ol | BrCCCCCCCCCCO | C10H21BrO
reactant | trimethylacetyl chloride | CC(C(=O)Cl)(C)C | C5H9ClO
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2,2-dimethyl-propionic acid 10-bromodecyl ester | 85% yield | BrCCCCCCCCCCOC(C(C)(C)C)=O | C15H29BrO2
